US07518021B2
To a mixture of di-μ-chlorobis(1,5-cyclooctadiene)diiridium(I) [Ir(cod)Cl]2 (3.81 g, 5.7 mmol) and sodium carbonate (24.9 g, 0.23 mol)) in toluene (280 ml) were added 2,2′-dihydroxybenzophenone (0.19 mmol) and vinyl propionate (0.75 mol), followed by stirring at 100° C. in an atmosphere of argon gas for 10 hours. The reaction mixture was analyzed by gas chromatography to find that bis(2-vinyloxyphenyl) ketone [i.e., bis(2-vinyloxyphenyl)methanone] and 2-hydroxyphenyl 2-vinyloxyphenyl ketone [i.e., 2-hydroxyphenyl(2-vinyloxyphenyl)methanone] were formed in yields of 82% and 5%, respectively, with a conversion from 2,2′-dihydroxybenzophenone of 99%.

reactant | sodium carbonate | 0.23 mol, 24.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,2′-dihydroxybenzophenone | 0.19 mmol | OC1=C(C(=O)C2=C(C=CC=C2)O)C=CC=C1 | C13H10O3
reactant | vinyl propionate | 0.75 mol | C(CC)(=O)OC=C | C5H8O2
reactant | bis(2-vinyloxyphenyl) ketone | C(=C)OC1=C(C=CC=C1)C(=O)C1=C(C=CC=C1)OC=C | C17H14O3
solvent | toluene | 280 ml | C1(=CC=CC=C1)C | C7H8
product | 2-hydroxyphenyl 2-vinyloxyphenyl ketone | C(=C)OC1=C(C=CC=C1)C(=O)C1=C(C=CC=C1)O | C15H12O3
